US06756378B2
To a cooled solution of methyl 2-acetylamino-4-aminobenzoate (300 mg, 1.44 mmol) and N-tert-butoxycarbonyl-N-methylglycinal (499 mg, 2.88 mmol) in 1,2dichloroethane (30 ml), was added NaBH(OAc)3 (964 mg, 4.32 mmol) and the stirring was continued for 64 h at 0° C. The mixture was poured into sat. NaHCO3 and was extracted with CHCl3 (50 ml×3), washed with brine, and dried over MgSO4. After removal of the solvent in vacuo, the residue was chromatographed on silica gel (middle pressure chromatography system: YAMAZEN YFLC-5404-FC, linear gradient of hexane-EtOAc from 9:1 to 2:1) to give methyl 2-acetylamino-4-[2-(N-tert-butoxycarbonyl-N-methylamino)ethylamino]benzoate (451 mg, 86%) as a colorless oil. 1H-NMR (CDCl3, 400 MHz) δ1.48 (s, 9 H), 2.22 (s, 3 H), 2.90 (s, 3 H), 3.32 (m, 2 H), 3.50 (m, 2 H), 3.80 (s, 3 H), 6.20 (dd, J=2.2 Hz, 8.8 Hz, 1H), 7.80 (m, 1H, 7.95 (m, 1H), 11.30 (brs, 1 H); MS (FAB) m/z 366 (M++1).

reactant | methyl 2-acetylamino-4-aminobenzoate | 1.44 mmol, 300 mg | C(C)(=O)NC1=C(C(=O)OC)C=CC(=C1)N | C10H12N2O3
reactant | N-tert-butoxycarbonyl-N-methylglycinal | 2.88 mmol, 499 mg | C(C)(C)(C)OC(=O)N(CC=O)C | C8H15NO3
reactant | NaBH(OAc)3 | 4.32 mmol, 964 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | methyl 2-acetylamino-4-[2-(N-tert-butoxycarbonyl-N-methylamino)ethylamino]benzoate | 451 mg, 86% | C(C)(=O)NC1=C(C(=O)OC)C=CC(=C1)NCCN(C)C(=O)OC(C)(C)C | C18H27N3O5
